US03970693
A slurry of 29.4 g. (0.220 mole) of anhydrous aluminum chloride in 38.4 g. (0.40 mole) of fluorobenzene under nitrogen is cooled to 15°C. Methacrylyl chloride (21.9 g., 0.200 mole) is then added dropwise over 30 minutes while holding the temperature at 15° to 20°C. The mixture is warmed to 30°C over 10 minutes, stirred at 30°C for 10 minutes and quenched in ice. The product is extracted into hexane. The hexane layer is dried over anhydrous sodium sulfate and concentrated in vacuo to give 4'-fluoro-2-methylacrylophenone.

reactant | aluminum chloride | 0.220 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 0.40 mole | FC1=CC=CC=C1 | C6H5F
reactant | Methacrylyl chloride | 0.200 mole, 21.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
product | 4'-fluoro-2-methylacrylophenone | FC1=CC=C(C=C1)C(C(=C)C)=O | C10H9FO
